data/oMe_Silver.jsonl
{"reaction_id": "NR-143_1-c1ccsc1_2-c1ccc(Cl)cc1_3-COCC","name": "Meyer-Schuster Rearrangement","level": "medium","reactants_smiles": ["C(C#Cc1ccsc1)(O)(c1ccc(Cl)cc1)(COCC)"],"products_smiles": ["C(=O)(c1ccsc1)C=C(c1ccc(Cl)cc1)(COCC)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([OH2+])(C#Cc1ccsc1)(c1ccc(Cl)cc1)(COCC)","rationale": "Protonation of the hydroxyl group increases its leaving group ability by converting OH into water, favored under acidic conditions due to enhanced electrophilicity at the adjacent carbon."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[C+](C#Cc1ccsc1)(c1ccc(Cl)cc1)(COCC)","rationale": "Loss of water generates a carbocation stabilized by adjacent propargyl resonance, making elimination favorable despite potential steric effects from c1ccc(Cl)cc1 and COCC."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(O)(c1ccsc1)=C=C(c1ccc(Cl)cc1)(COCC)","rationale": "Nucleophilic attack of water on the electrophilic carbocation occurs, driven by carbocation stability and the ability to form an enol intermediate conjugated with the alkyne."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(c1ccsc1)C=C(c1ccc(Cl)cc1)(COCC)","rationale": "Proton transfer tautomerizes the enol to the more thermodynamically stable α,β-unsaturated carbonyl, favored by conjugation between the C=O and C=C."}],"description": "Under acidic conditions, the propargyl alcohol undergoes protonation to activate the hydroxyl group, followed by water loss to form a stabilized carbocation. Nucleophilic addition and proton transfers rearrange the triple bond into an α,β-unsaturated carbonyl via the Meyer–Schuster pathway."}
{"reaction_id": "NR-208_1-C#N_2-c1ccccc1_3-C(C)OC_4-C(C)(C)C","level": "easy","name": "Overman Rearrangement","reactants_smiles": ["C(C#N)=C(c1ccccc1)C(C(C)OC)(C(C)(C)C)OC=N"],"products_smiles": ["C(=O)NC(C#N)C(c1ccccc1)=C(C(C)OC)(C(C)(C)C)"],"conditions": "None","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=O)NC(C#N)C(c1ccccc1)=C(C(C)OC)(C(C)(C)C)","step_weight": 0,"rationale": "Thermal activation enables a [3,3]-sigmatropic shift via a six-membered cyclic transition state, with allylic π-orbitals and imidate lone pairs overlapping to form a more stable amide through resonance stabilization."}],"description": "The allylic imidate undergoes a concerted [3,3]-sigmatropic rearrangement under thermal conditions, shifting the connectivity to form an allylic amide. This pericyclic process is driven by favorable orbital overlap and the thermodynamic stability of the amide product."}
{"reaction_id": "NR-323_1-C_2-CC_3-c1ccccc1_4-C(C)(C)C_5-CC_6-C(C)(C)C","level": "easy","name": "Wittig Rearrangement-[2,3]","reactants_smiles": ["C(C)(CC)=C(c1ccccc1)C(C(C)(C)C)(CC)OCC(C)(C)C","CCCC[Li]"],"products_smiles": ["OC(C(C)(C)C)C(C)(CC)C(c1ccccc1)=C(C(C)(C)C)(CC)"],"conditions": "1. Strong Base (e.g., n-BuLi); 2. H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(CC)=C(c1ccccc1)C(C(C)(C)C)(CC)O[CH-]C(C)(C)C","step_weight": 0,"rationale": "n-BuLi, a strong base, abstracts the relatively acidic α-proton adjacent to oxygen due to inductive electron withdrawal and stabilization of the resulting alkoxide by oxygen."},{"step": 2,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "[O-]C(C(C)(C)C)C(C)(CC)C(c1ccccc1)=C(C(C)(C)C)(CC)","step_weight": 0,"rationale": "The alkoxide undergoes a [2,3]-sigmatropic rearrangement, favored by orbital symmetry and relief of electron density through concerted bond reorganization, forming a more stable carbon–carbon bond adjacent to oxygen."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OC(C(C)(C)C)C(C)(CC)C(c1ccccc1)=C(C(C)(C)C)(CC)","step_weight": 0,"rationale": "Aqueous workup protonates the alkoxide intermediate, driven by the strong thermodynamic preference for neutral alcohol formation in protic conditions."}],"description": "A strong base deprotonates the α-position to oxygen, generating an alkoxide that undergoes a concerted [2,3]-sigmatropic rearrangement. This rearrangement shifts the carbon framework, forming a new C–C bond. Subsequent protonation yields the rearranged alcohol product."}
